### PR TITLE
feat: add `BitVec.(extractLsb, extractLsb')_(toInt, toFin)`

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
 @[simp] theorem extractLsb_toNat (hi lo : Nat) (x : BitVec n) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
+@[simp] theorem extractLsb'_toInt (s m : Nat) (x : BitVec n) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:776]:
```suggestion
@[simp] theorem extractLsb'_toInt {s m : Nat} {x : BitVec n} :
```

Since the variable `s`, `m`, `x` occur on the LHS and the RHS, we should standardize and make these implicit.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
+  simp [extractLsb', toInt_ofNat]
+
+@[simp] theorem extractLsb_toInt (hi lo : Nat) (x : BitVec n) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:780]:
```suggestion
@[simp] theorem extractLsb_toInt {hi lo : Nat} {x : BitVec n} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+  (extractLsb hi lo x).toInt = ((x.toNat >>> lo) : Int).bmod (2 ^ (hi - lo + 1)) := by
+  simp [extractLsb, toInt_ofNat]
+
+@[simp] theorem extractLsb'_toFin (s m : Nat) (x : BitVec n) :
+    (extractLsb' s m x).toFin = Fin.ofNat' (2 ^ m) (x.toNat >>> s) := by
+  simp [extractLsb', toInt_ofNat]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:786]:
```suggestion
@[simp] theorem extractLsb'_toFin {s m : Nat} {x : BitVec n} :
    (extractLsb' s m x).toFin = Fin.ofNat' (2 ^ m) (x.toNat >>> s) := by
  simp [extractLsb', toInt_ofNat]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+
+@[simp] theorem extractLsb_toFin (hi lo : Nat) (x : BitVec n) :
+  (extractLsb hi lo x).toFin = Fin.ofNat' (2 ^ (hi - lo + 1)) (x.toNat >>> lo) := by
+  simp [extractLsb, toInt_ofNat]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:790]:
```suggestion
@[simp] theorem extractLsb_toFin {hi lo : Nat} {x : BitVec n} :
  (extractLsb hi lo x).toFin = Fin.ofNat' (2 ^ (hi - lo + 1)) (x.toNat >>> lo) := by
  simp [extractLsb, toInt_ofNat]
```

**Review by bollu — APPROVED** [review]
LGTM modulo the explicit -> implicit parameter change.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+  (extractLsb hi lo x).toInt = ((x.toNat >>> lo) : Int).bmod (2 ^ (hi - lo + 1)) := by
+  simp [extractLsb, toInt_ofNat]
+
+@[simp] theorem extractLsb'_toFin {s m : Nat} {x : BitVec n} :
+    (extractLsb' s m x).toFin = Fin.ofNat' (2 ^ m) (x.toNat >>> s) := by
+  simp [extractLsb', toInt_ofNat]
+
+@[simp] theorem extractLsb_toFin {hi lo : Nat} {x : BitVec n} :
+  (extractLsb hi lo x).toFin = Fin.ofNat' (2 ^ (hi - lo + 1)) (x.toNat >>> lo) := by
+  simp [extractLsb, toInt_ofNat]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:790]: Should these not be called `toInt_extractLsb`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
 @[simp] theorem extractLsb_toNat (hi lo : Nat) (x : BitVec n) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
+@[simp] theorem extractLsb'_toInt {s m : Nat} {x : BitVec n} :
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
+  simp [extractLsb', toInt_ofNat]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:778]: I wonder if this could also be `x.toInt >>> s` on the RHS?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
 @[simp] theorem extractLsb_toNat (hi lo : Nat) (x : BitVec n) :
   (extractLsb hi lo x).toNat = (x.toNat >>> lo) % 2^(hi-lo+1) := rfl
 
+@[simp] theorem extractLsb'_toInt {s m : Nat} {x : BitVec n} :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:776]:
```suggestion
@[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
 
+@[simp] theorem toInt_extractLsb' {s m : Nat} {x : BitVec n} :
+    (extractLsb' s m x).toInt = ((x.toNat >>> s) : Int).bmod (2 ^ m) := by
+  simp [extractLsb', toInt_ofNat]
+
+@[simp] theorem extractLsb_toInt {hi lo : Nat} {x : BitVec n} :
+  (extractLsb hi lo x).toInt = ((x.toNat >>> lo) : Int).bmod (2 ^ (hi - lo + 1)) := by
+  simp [extractLsb, toInt_ofNat]
+
+@[simp] theorem extractLsb'_toFin {s m : Nat} {x : BitVec n} :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:784]:
```suggestion
@[simp] theorem toFin_extractLsb' {s m : Nat} {x : BitVec n} :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -773,6 +773,22 @@ protected theorem extractLsb_ofNat (x n : Nat) (hi lo : Nat) :
...
+    (extractLsb' s m x).toFin = Fin.ofNat' (2 ^ m) (x.toNat >>> s) := by
+  simp [extractLsb', toInt_ofNat]
+
+@[simp] theorem extractLsb_toFin {hi lo : Nat} {x : BitVec n} :
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:788]:
```suggestion
@[simp] theorem toFin_extractLsb {hi lo : Nat} {x : BitVec n} :
```
